US07304081B2
Step 3. 1-{4-[cyclopentyl(fluoro)methyl]phenyl}cyclopropanecarboxylic acid
To a mixture of 1-{4-[cyclopentyl(fluoro)methyl]phenyl}cyclopropanecarbonitrile (600.0 mg, 0.002466 mol) and 19.4 M of sodium hydroxide in water (0.51 mL) was added 1,2-ethanediol (5 mL, 0.09 mol), and the mixture was refluxed at 100° C. overnight. After cooling down to rt, the reaction mixture was poured into water and extracted with ether. The aqueous phase then was acidified with HCl and extract with ether. Then the organic phase was washed with brine, dryed over MgSO4, and concentrated to afford the desired product.

reactant | 1-{4-[cyclopentyl(fluoro)methyl]phenyl}cyclopropanecarbonitrile | 0.002466 mol, 600.0 mg | C1(CCCC1)C(C1=CC=C(C=C1)C1(CC1)C#N)F | C16H18FN
reactant | sodium hydroxide | 19.4 M | [OH-].[Na+]
reactant | 1,2-ethanediol | 0.09 mol, 5 mL | C(CO)O | C2H6O2
solvent | water | 0.51 mL | O | H2O
product | 1-{4-[cyclopentyl(fluoro)methyl]phenyl}cyclopropanecarboxylic acid | C1(CCCC1)C(C1=CC=C(C=C1)C1(CC1)C(=O)O)F | C16H19FO2
